US06576766B1
(b) (R)-1-(4-(Cyclohexylmethoxy)phenyl)-1-ethanol
A solution of 1-(4-(Cyclohexylmethoxy)phenyl)ethanone (1.05 g, 4.5 mmol) in THF (2.5 mL) was added dropwise to a solution of (+)-DIP-Cl 2.3 g 1.59 eq) in THF (7.2 mL) at −55° C. under N2. The reaction mixture was allowed to slowly warm to −14° C. After 18 h, the reaction mixture was warmed to room temperature and concentrated in vacuo. The resulting oil was then diluted with Et2O (50 mL) and treated with diethanolamine (1.5 mL). This mixture was stirred for 3 h and then filtered through Celite to remove the white precipitate. The filtrate was removed in vacuo to give a yellowish oil. Flash chromatography on silica gel eluting with 20:1 to 85:15 hexanes-EtOAc afforded 790 mg of material contaminated with reagent by-products as impurities.

reactant | 1-(4-(Cyclohexylmethoxy)phenyl)ethanone | 4.5 mmol, 1.05 g | C1(CCCCC1)COC1=CC=C(C=C1)C(C)=O | C15H20O2
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 7.2 mL | C1CCOC1 | C4H8O
product | (R)-1-(4-(Cyclohexylmethoxy)phenyl)-1-ethanol | 790 mg | C1(CCCCC1)COC1=CC=C(C=C1)[C@@H](C)O | C15H22O2
